US08008481B2
A mixture of 7-benzo[b]thiophen-2-yl-5-bromo-2-(2-trimethylsilanyl-ethoxymethyl)-2H-indazole (Preparation #23, 0.15 g, 0.326 mmol) in tetrahydrofuran (2 mL) was cooled to about −65° C. then a solution of n-butyllithium (1.6 M, 0.36 mL, 0.36 mmol) was added dropwise. After about 30 minutes, 2-pyridinecarboxaldehyde (0.042 g, 0.39 mmol) was added. The mixture was quenched with methanol (1 mL) then warmed to room temperature. The solvent was removed in vacuo and the residue was purified by preparative reverse phase HPLC chromatography (RP-HPLC (Rainin C18, 8 mm, 300 Å, 35 cm; 5-100% acetonitrile/0.1 M ammonium acetate over 20 min, 100% acetonitrile hold 10 minutes, 21 mL/min) to give the intermediate [7-benzo[b]thiophen-2-yl-2-(2-trimethylsilanyl-ethoxymethyl)-2H-indazol-3-yl-pyridin-2-yl-methanol (50 mg) which was suspended in a mixture of 1,4-dioxane (2 mL) and manganese dioxide (90 mg, 31%). The mixture was heated to about 90° C. for 15 minutes then filtered and evaporated. The residue was purified by reverse phase HPLC (RP-HPLC (Rainin C18, 8 mm, 300 Å, 35 cm; 5-100% acetonitrile/0.1 M ammonium acetate over 20 min, 100% acetonitrile hold 10 minutes, 21 mL/min) to give (7-Benzo[b]thiophen-2-yl-1H-indazol-3-yl)-pyridin-2-yl-methanone (22 mg, 44%); (DMSO-d6, 400 MHz) δ 8.8 (bs, 1H), 8.31 (d, 1H), 8.09 (m, 4H), 7.93 (d, 1H), 7.78 (bs, 1H), 6.96 (bs, 1H), 7.51 (t, 1H), 7.43 (m, 2H); RP-HPLC (Table 1, Method e) Rt 2.60 min; m/z: (M−H)− 353.8.

reactant | 7-benzo[b]thiophen-2-yl-5-bromo-2-(2-trimethylsilanyl-ethoxymethyl)-2H-indazole | 0.326 mmol, 0.15 g | S1C2=C(C=C1C1=CC(=CC3=CN(N=C13)COCC[Si](C)(C)C)Br)C=CC=C2 | C21H23BrN2OSSi
reactant | n-butyllithium | 0.36 mmol, 1.6 M, 0.36 mL | C(CCC)[Li]
reactant | 2-pyridinecarboxaldehyde | 0.39 mmol, 0.042 g | N1=C(C=CC=C1)C=O | C6H5NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 7-benzo[b]thiophen-2-yl-2-(2-trimethylsilanyl-ethoxymethyl)-2H-indazol-3-yl-pyridin-2-yl-methanol | 50 mg | S1C2=C(C=C1C1=CC=CC3=C(N(N=C13)COCC[Si](C)(C)C)C(O)C1=NC=CC=C1)C=CC=C2 | C27H29N3O2SSi
